US05710171
Step 1: Preparation of 3-nitro-1-N-(phenyl)benzenesulfonamide
To a solution of 3-nitrobenzenesulfonyl chloride (3.08 g, 13.9 mmol) in 28 mL of dichloromethane was added triethylamine (3.88 mL, 27.8 mmol) and aniline (1.39 mL. 15.3 mmol). After 16 hours, the reaction was poured into ethyl acetate and 10% HCl solution, then washed with brine, dried (MgSO4) and concentrated in vacuo to provide the crude product. Purification by chromatography on silica gel (25-50% CH2Cl2 /hexane, then 5% MeOH/CH2Cl2) provided 1.68 g of the desired product as an off-white solid.

reactant | 3-nitrobenzenesulfonyl chloride | 13.9 mmol, 3.08 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | triethylamine | 27.8 mmol, 3.88 mL | C(C)N(CC)CC | C6H15N
reactant | aniline | 15.3 mmol, 1.39 mL | NC1=CC=CC=C1 | C6H7N
reactant | HCl | Cl | ClH
solvent | dichloromethane | 28 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-nitro-1-N-(phenyl)benzenesulfonamide | 1.68 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)NC1=CC=CC=C1 | C12H10N2O4S
